US09120777B2
D) 1-(1-((6-Cyclopropyl-3-ethoxy-2,2′,4′-trifluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A 2 M aqueous sodium hydroxide solution (1.5 mL) was added to an ethanol (6 mL) solution of methyl 1-(1-((6-cyclopropyl-3-ethoxy-2,2′,4′-trifluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate (264 mg), and the mixture was stirred at 80 C for 3 hours in a nitrogen atmosphere. Then, the solvent was distilled off under reduced pressure. Water was added to the residue, and the mixture was neutralized with 2 M hydrochloric acid, followed by extraction with a mixed solution of ethyl acetate and THF. The organic layer was separated, then washed with water and saturated saline in this order, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was crystallized (hexane/ethyl acetate) and further recrystallized (hexane/ethanol) to obtain the title compound (173 mg).

reactant | sodium hydroxide | 2 M, 1.5 mL | [OH-].[Na+]
reactant | methyl 1-(1-((6-cyclopropyl-3-ethoxy-2,2′,4′-trifluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 264 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OCC)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)CC)=O | C32H35F3N2O4
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-(1-((6-Cyclopropyl-3-ethoxy-2,2′,4′-trifluorobiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 173 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OCC)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)CC)=O | C31H33F3N2O4
